US06235731B1
1) Synthesis of S-(diethoxyphosphorylmethyl) thioacetate
To a solution of 17.527 g (93.938 mM) of diethyl chloromethylphosphonate in 50 ml of N,N-dimethylformamide was added 12.9 g (113 mM) of potassium thioacetate and the mixture was stirred at 100° C. for 3 hours. This reaction mixture was poured in water, saturated with sodium chloride, and extracted with 4 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate:3/1 to 1/1) to provide the title compound.

reactant | diethyl chloromethylphosphonate | 93.938 mM, 17.527 g | ClCP(OCC)(OCC)=O | C5H12ClO3P
reactant | potassium thioacetate | 113 mM, 12.9 g | C(C)(=S)[O-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | S-(diethoxyphosphorylmethyl) thioacetate | C(C)(=O)SCP(=O)(OCC)OCC | C7H15O4PS
